US05688809
A. 5-(4-Cyano-2-nitrophenylamino)-1H-indole
5-Aminoindole (0.264 g, 2.00 mmoles) and 4-chloro-3-nitrobenzonitrile (0.444 g, 3.00 mmoles) were combined with triethylamine (0.42 ml, 3.01 mmoles) in absolute ethanol and the reaction was heated at reflux under nitrogen for 3 hours. After evaporation of the solvent, the residue was chromatographed using ether/hexanes [1:1] to afford the title compound (79%) as a red amorphous solid. Mp, decomposes 134° C.; 13C NMR (DMSO-d6) δ146.9, 137.3, 134.8, 131.9, 131.3, 128.9, 128.3, 126.9, 119.8, 118.2, 117.9, 117.2, 112.5, 101.5, 97.4; LRMS (m/z, relative intensity) 278 (M+, 100), 261 (31), 244 (73), 231 (78). HRMS calculated for C15H10N4O2 : 278.0802. Found: 278.0808. Analytical calculated for C15H10N4O2 : C, 64.74; H, 3.62; N, 20.13. Found: 64.84; H, 3.57; N, 20.13.

reactant | 5-Aminoindole | 2.00 mmoles, 0.264 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 4-chloro-3-nitrobenzonitrile | 3.00 mmoles, 0.444 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | triethylamine | 3.01 mmoles, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Cyano-2-nitrophenylamino)-1H-indole | 79% | C(#N)C1=CC(=C(C=C1)NC=1C=C2C=CNC2=CC1)[N+](=O)[O-] | C15H10N4O2
